US07179937B2
Preparation of 4-acetoxy-2-(3,4,5-trimethoxyphenyl)-cyclopent-2-en-1-one
A solution of 2-(3,4,5-trimethoxyphenyl)-4-hydroxy-cyclopent-2-en-1-one (3 gm, 11.36 mmol) in dichloromethane (30 ml) was cooled to 0° C. using ice-salt bath. To the cold solution dry pyridine (1.70 gm, 1.73 ml; 26.0 mmol) was added and stirred at 0° C. for 10 min. To the stirred solution, acetic anhydride (1.63 gm, 1.50 ml, 16.0 mmol) was added dropwise while maintaining the temperature below 0° C. The reaction mixture was stirred at room temperature for 15 h (monitored by TLC) then quenched by adding cold, dilute hydrochloric acid. The organic layer was washed three times with water, 10% sodium bicarbonate solution and finally brine. The organic layer was dried over sodium sulfate and concentrated to dryness under reduced pressure using a rotary evaporator. The crude residue was purified by column chromatography using silica gel (petroleum ether: acetone as eluent) to collect the pure 4-acetoxy-2-(3,4,5-trimethoxy-phenyl)-cyclopent-2-en-1-one (2.56 gm, 73.47%).

reactant | 2-(3,4,5-trimethoxyphenyl)-4-hydroxy-cyclopent-2-en-1-one | 11.36 mmol, 3 gm | COC=1C=C(C=C(C1OC)OC)C=1C(CC(C1)O)=O | C14H16O5
reactant | pyridine | 26.0 mmol, 1.73 ml, 1.70 gm | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 16.0 mmol, 1.50 ml, 1.63 gm | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-acetoxy-2-(3,4,5-trimethoxyphenyl)-cyclopent-2-en-1-one | C(C)(=O)OC1C=C(C(C1)=O)C1=CC(=C(C(=C1)OC)OC)OC | C16H18O6
